US05866568
Tetrakis(triphenylphosphine)palladium(0) (0.018 g) was added to a deoxygenated mixture of 4-chloro-N-(3-methoxy-5-methylpyrazin-2-yl)-N-[2(trimethylsilyl) ethoxymethyl]pyridine-3-sulphonamide (0.225 g), 4-isobutylphenylboronic acid (0.109 g), toluene (4 ml), ethanol (2 ml) and 2M sodium carbonate solution (6 ml) and the mixture was stirred and heated under reflux for 18 hours. Ether (25 ml) was added and the mixture was washed with water (2×25 ml) and saturated sodium chloride solution. Aqueous layers were back-extracted with ether (25 ml). The organic extracts were combined and dried (MgSO4). Volatile material was removed by evaporation and the residue was purified by gradient elution with 25-50% ethyl acetate/hexane through a silica gel Mega Bond Elut column to give 4-(4-isobutylphenyl)-N-(3-methoxy-5-methylpyrazin-2-yl)-N-[2-(trimethylsilyl)ethoxymethyl]-pyridine-3-sulphonamide (0.213 g) as an oil; 1H NMR (d6 -DMSO): -0.1 (s, 9 H), 0.7 (t, 2 H), 0.9 (d, 6 H), 1.9 (m, 1 H), 2.45 (s, 3 H), 2.5 (d, 2 H), 3.5 (t, 2 H), 3.8 (s, 3 H), 4.7 (s, 2 H), 7.2 (d, 2 H), 7.3 (d, 2 H), 7.4 (d, 1 H), 8.0 (s, 1 H), 8.8 (d, 1 H), 9.2 (s, 1 H); mass spectrum (+ve ESP): 543 (M+H)+.

reactant | 4-chloro-N-(3-methoxy-5-methylpyrazin-2-yl)-N-[2(trimethylsilyl) ethoxymethyl]pyridine-3-sulphonamide | 0.225 g | ClC1=C(C=NC=C1)S(=O)(=O)N(COCC[Si](C)(C)C)C1=NC=C(N=C1OC)C | C17H25ClN4O4SSi
reactant | 4-isobutylphenylboronic acid | 0.109 g | C(C(C)C)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 2M, 6 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.018 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Ether | 25 ml | CCOCC | C4H10O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 4-(4-isobutylphenyl)-N-(3-methoxy-5-methylpyrazin-2-yl)-N-[2-(trimethylsilyl)ethoxymethyl]-pyridine-3-sulphonamide | 0.213 g | C(C(C)C)C1=CC=C(C=C1)C1=C(C=NC=C1)S(=O)(=O)N(COCC[Si](C)(C)C)C1=NC=C(N=C1OC)C | C27H38N4O4SSi
